US07041779B1
Preparation of 1,5-naphthalenedinitrile
1,5-Diiodonaphthalene (8.4 g) was reacted with a mixture of 4.2 g CuCN and 40 ml DMF under reflux conditions overnight. The mixture was cooled and poured into 120 ml aqueous solution containing 12.6 g NaCN. The mixture was stirred for four hours and the filtered product was repeatedly washed with copious amounts of water and dried. The isolated crude product (3.6 g, 92% yield, m.pt., 258–260° C.) was recrystallized from toluene to yield 3.2 g of the product (81% yield, m.pt., 260–262° C.).

reactant | 1,5-Diiodonaphthalene | 8.4 g | IC1=CC=CC2=C(C=CC=C12)I | C10H6I2
reactant | CuCN | 4.2 g | C(#N)[Cu]
reactant | NaCN | 12.6 g | [C-]#N.[Na+]
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 1,5-naphthalenedinitrile | 3.2 g, 81% yield | C1(=CC=CC=2C(=CC=CC12)C#N)C#N | C12H6N2
